US05102890
Ethyl 4-diisopropylaminobutyrate may be obtained in the following manner: diisopropylamine (40.4 g) is added dropwise to a solution of ethyl 4-bromobutyrate (39 g) in ethanol (80 cc). The solution obtained is heated to reflux for 6 hours. After the insoluble material formed has been filtered off, the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up with distilled water (15 cc) and 4 N aqueous hydrochloric acid solution (100 cc). The aqueous phase is washed with ethyl ether (3×75 cc) and then alkalinized with 10 N aqueous sodium hydroxide solution. The oil formed is extracted with ethyl ether (3×75 cc). The organic phase obtained is concentrated to dryness under reduced pressure (2.7 kPa). Ethyl 4-diisopropylaminobutyrate (9.2 g) is thereby obtained in the form of an oil, which is employed in the crude state in the subsequent syntheses.

reactant | diisopropylamine | 40.4 g | C(C)(C)NC(C)C | C6H15N
reactant | ethyl 4-bromobutyrate | 39 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | ethanol | 80 cc | C(C)O | C2H6O
product | Ethyl 4-diisopropylaminobutyrate | 9.2 g | C(C)(C)N(CCCC(=O)OCC)C(C)C | C12H25NO2
